US05447943
A solution of 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.5 g, 1.53 mmol) and triethylamine (0.25 ml, 1.8 mmol) in dichloromethane (20 ml) at 0° C. was treated with trifluoroacetic anhydride (0.26 ml, 1.8 mmol), and the mixture stirred at room temperature for four hours. Water was added and the organic phase separated and evaporated. The residue was triturated with diethyl ether to give 0.53 g of 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 189° C.

reactant | 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 1.53 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CN)N2C(C=CC=C2)=O)C1 | C17H17N3O4
reactant | triethylamine | 1.8 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.8 mmol, 0.26 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.53 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)NC(C(F)(F)F)=O)N2C(C=CC=C2)=O)C1 | C18H14F3N3O5
